US07232827B2
1.4 9-(6,7-Dihydro-5H-cyclopentapyrazin-6-ylmethyl)-7,7-dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A suspension of 0.5 g (1.94 mmol) of 7,7-dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 10 ml of anhydrous dimethylformamide was treated with 155 mg (3.89 mmol) of sodium hydride (50% suspension in mineral oil) and the resulting mixture was stirred for 40 min at 50° C. 0.888 g (3.89 mmol) of methanesulfonic acid 6,7-dihydro-5H-cyclopentapyrazin-6-ylmethyl ester in 2 ml of anhydrous dimethylformamide was added and the reaction mixture stirred at room temperature for 18 h. The solution was treated with water and extracted with ethyl acetate. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with dichloromethane/methanol in the proportions 100/1 to 95/5 to give 80 mg of pure product obtained in the form of free base which was transformed into the hydrochloride salt. Mp: 193–195° C.

reactant | 7,7-dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 1.94 mmol, 0.5 g | CC1(CNC=2N(C(C=C(N2)C2=NC=NC=C2)=O)C1)C | C13H15N5O
reactant | sodium hydride | 3.89 mmol, 155 mg | [H-].[Na+]
reactant | methanesulfonic acid 6,7-dihydro-5H-cyclopentapyrazin-6-ylmethyl ester | 3.89 mmol, 0.888 g | N1=CC=NC2=C1CC(C2)COS(=O)(=O)C | C9H12N2O3S
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 9-(6,7-Dihydro-5H-cyclopentapyrazin-6-ylmethyl)-7,7-dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 80 mg | N1=CC=NC2=C1CC(C2)CN2CC(CN1C2=NC(=CC1=O)C1=NC=NC=C1)(C)C | C21H23N7O
